US06313312B1
Ethyl 3-(chloromethyl)-2-(3-cyanophenyl)-2-methylcyclopropane carboxylate
To a solution of 3-[(E)-3-chloro-1-methyl-1-propenyl]benzonitrile (Preparation 34, 13.1 g, 69.6 mmol) in dichloromethane (20 md) was added rhodium (II) acetate dimer (0.46 g, 1.0 mmol). To the mixture was added dropwise at room temperature over 8 h (via a syringe pump) a solution of ethyl diazoacetate (14.6 ml, 0.14 mol) in dichloromethane (20 ml). The solvent was removed in vacuo and the crude residue was then partially purified by silica column chromatography eluting with dichloromethane:hexane (80:20). This material was then dissolved in dichloromethane (20 ml) containing rhodium (I) acetate dimer (0.46 g, 1.0 mmol). To this mixture was added dropwise a solution of ethyl diazoacetate (14.6 ml, 0.14 mol) in dichloromethane (20 ml) at room temperature over 8 h. The mixture was concentrated irn vacuo and the residue purified by silica column chromatography eluting with hexane:dichloromethane (80:20) and then hexane:diethyl ether (80:20) to give the title compound as a colourless oil which solidified on standing (5.82 g, 30%).

reactant | 3-[(E)-3-chloro-1-methyl-1-propenyl]benzonitrile | 69.6 mmol, 13.1 g | ClC/C=C(\C)/C=1C=C(C#N)C=CC1 | C11H10ClN
reactant | ethyl diazoacetate | 0.14 mol, 14.6 ml | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | ethyl diazoacetate | 0.14 mol, 14.6 ml | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | rhodium (II) acetate dimer | 1.0 mmol, 0.46 g | CC(=O)O.CC(=O)O.CC(=O)O.CC(=O)O.[Rh].[Rh]
product | Ethyl 3-(chloromethyl)-2-(3-cyanophenyl)-2-methylcyclopropane carboxylate | ClCC1C(C1C(=O)OCC)(C)C1=CC(=CC=C1)C#N | C15H16ClNO2
